US04970213
The reaction is carried out under the conditions of Reference Example 5 but starting from 1.7 g of 8-chloro-7-fluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 4.3 g of piperazine in 20 cm3 of pyridine. The pure product is obtained after a single recrystallization from 20 cm3 of dimethylformamide. 1.25 g of 7-fluoro-4-oxo-8-(1-piperazinyl)-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are isolated in the form of a yellow solid melting at 290° C., solvated by 4.5% of water.

reactant | 8-chloro-7-fluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.7 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C(C)(C)C)C1)F | C17H14ClFN2O3
reactant | piperazine | 4.3 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-4-oxo-8-(1-piperazinyl)-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.25 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C(C)(C)C)C=C1N1CCNCC1 | C21H23FN4O3
